US07985755B2
2-Fluoro-6-(piperidin-1-ylmethoxy)benzonitrile hydrochloride (122 mg; 0.45 mmol) was suspended in 2 mL of tetrahydrofuran, and in one portion triethylamine was added (0.2 mL. 1.4 mmol) to the mixture at room temperature. 4-Chlorobenzoyl chloride (0.06 mL; 0.45 mmol) was then added, and stirred at room temperature for 16 hrs. Reaction was quenched with 2 mL 1 N HCl. Mixture was extracted twice with 10 mL of ethyl acetate and organic layers combined. Mixture was then washed with sat. NaHCO3, brine and dried over MgSO4. Mixture was filtered and concentrated to an oil. Material was purified via flash silica gel chromatography using 0.5-2% methanol/dichloromethane gradient to afford 2-[1-(4-chlorobenzoyl)piperidin-4-ylmethoxy]-6-fluorobenzonitrile as an oil. (120 mg; 71% yield).

reactant | 2-Fluoro-6-(piperidin-1-ylmethoxy)benzonitrile hydrochloride | 0.45 mmol, 122 mg | Cl.FC1=C(C#N)C(=CC=C1)OCN1CCCCC1
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-Chlorobenzoyl chloride | 0.45 mmol, 0.06 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-[1-(4-chlorobenzoyl)piperidin-4-ylmethoxy]-6-fluorobenzonitrile | 71% yield | ClC1=CC=C(C(=O)N2CCC(CC2)COC2=C(C#N)C(=CC=C2)F)C=C1 | C20H18ClFN2O2
